US07745646B2
Sodium hydride (10 mg, 60%, 0.25 mmol) was added to a solution of 2,6-dichloroaniline (40 mg, 0.25 mmol) and anhydrous DMSO (2 mL) at rt under N2. After 40 min, this mixture was added to a solution of 8-(cyclopentyloxy)-7-methoxy-2-oxo-2H-chromen-4-yl 4-methylbenzenesulfonate (70 mg, 0.16 mmol) and anhydrous DMSO (2 mL) at rt under N2. After 1.5 h at rt, the reaction was heated at 50° C. After an additional 1.5 h, a second aliquot of the sodium 2,6-dichloroanilide mixture was added. After an additional hour, the reaction was allowed to cool to rt, diluted with 1M KH2PO4 (40 mL), and extracted with ethyl acetate (40 mL×2). The combined extracts were dried, filtered, concentrated, and purified by silica gel chromatography (4:1→3:2; hexanes:ethyl acetate) to give 8-(cyclopentyloxy)-4-(2,6-dichlorophenylamino)-7-methoxy-2H-chromen-2-one: 1H NMR (400 MHz, DMSO-d6): δ 9.39 (s, 1H), 7.95 (d, 1H), 7.69 (d, 2H), 7.50 (t, 1H), 7.18 (d, 1H), 4.83 (m, 1H), 4.36 (s, 1H), 3.90 (s, 3H), 1.80-1.00 (m, 8H); MS (ESI): 419.9.

reactant | Sodium hydride | 0.25 mmol, 10 mg | [H-].[Na+]
reactant | 2,6-dichloroaniline | 0.25 mmol, 40 mg | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | DMSO | 2 mL | CS(=O)C | C2H6OS
reactant | 8-(cyclopentyloxy)-7-methoxy-2-oxo-2H-chromen-4-yl 4-methylbenzenesulfonate | 0.16 mmol, 70 mg | CC1=CC=C(C=C1)S(=O)(=O)OC1=CC(OC2=C(C(=CC=C12)OC)OC1CCCC1)=O | C22H22O7S
reactant | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | KH2PO4 | 1M, 40 mL | OP(=O)(O)[O-].[K+]
product | 8-(cyclopentyloxy)-4-(2,6-dichlorophenylamino)-7-methoxy-2H-chromen-2-one | C1(CCCC1)OC=1C(=CC=C2C(=CC(OC12)=O)NC1=C(C=CC=C1Cl)Cl)OC | C21H19Cl2NO4
